US07262220B2
d) 1-{3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-4-methoxyphenyl}-3-methylurea
600 mg (1.7 mmol) of 1-(5-amino-2-methoxyphenyl)-3-(2-chloro-4,5-difluoro-benzoyl)urea were dissolved in 5 ml of acetonitrile, and 69 mg (1.7 mmol) of methyl isocyanate were added. After stirring at room temperature for one hour, the resulting precipitate was filtered off with suction. 638 mg (91%) of the desired product were obtained.

reactant | 1-(5-amino-2-methoxyphenyl)-3-(2-chloro-4,5-difluoro-benzoyl)urea | 1.7 mmol, 600 mg | NC=1C=CC(=C(C1)NC(=O)NC(C1=C(C=C(C(=C1)F)F)Cl)=O)OC | C15H12ClF2N3O3
reactant | methyl isocyanate | 1.7 mmol, 69 mg | CN=C=O | C2H3NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-{3-[3-(2-Chloro-4,5-difluorobenzoyl)ureido]-4-methoxyphenyl}-3-methylurea | 638 mg, 91% | ClC1=C(C(=O)NC(NC=2C=C(C=CC2OC)NC(=O)NC)=O)C=C(C(=C1)F)F | C17H15ClF2N4O4
